trab 3


.options savecurrents

.PARAM n = 1/16

Vprimario 0 ze dc 1 ac 230 SINE(0 230 314 0 0 0)

E1 5 0 0 ze n


*full wave rectifier
D1 2 1 Default
D2 1 2 Default
D3 4 0 Default
D4 0 4 Default


R1 2 4 10k
C1 2 4 5u

R4 2 3 0.005k

D5 3 Dumb Default
D6 Dumb 5 Default
D7 5 6 Default
D8 6 7 Default
D9 7 8 Default
D10 8 9 Default
D11 9 10 Default
D12 10 11 Default
D13 11 12 Default
D14 12 13 Default
D15 13 14 Default
D16 14 15 Default
D17 15 16 Default
D18 16 17 Default
D19 17 18 Default
D20 18 19 Default
D21 19 20 Default
D22 20 21 Default
D23 21 22 Default
D24 22 4 Default


.model Default D
.op
.end

.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

echo "********************************************"
echo "Transient analysis"
echo "********************************************"
tran 1e-4 200e-3 100e-3

hardcopy zauzau.ps v(4)-v(3)
echo zauzau_FIG


.endc